US06057439
21-Methylene-20(R)-methylpregn-4-en-3-one, 20
Aluminum isopropoxide (0.39 g, 1.9 mmol) in 3.6 ml of hot toluene was added to a solution of 21-methylene-20(R)-methylpregn-5-en-3β-ol (208.2 mg, 0.6337 mmol) in cyclohexanone (3.6 ml, 35 mmol) and 18 ml of toluene, and the mixture was refluxed with exclusion of moisture for 2 h. After cooling in ice, 0.92 ml of water and 2.2 ml of 3.6 N sulfuric acid were added and the mixture was shaken 1 min. Further water (4.6 ml) was added, the mixture was shaken 5 min., and the aqueous phase was discarded. Volatile components were removed by azeotropic/steam distillation and the resulting aqueous suspension was extracted three times with 5 ml portions of methylene chloride. The combined organic extracts were filtered through a small column of sodium sulfate resting on a bed of diatomaceous earth, all of which was contained in a Pasteur pipette. The residue was washed with 5 ml of methylene chloride and the combined filtrates were concentrated under reduced pressure. Recrystallization of the residual film gave white needles (152.7 mg, 0.4677 mmol, 74%), m.p. 138-139° C. TLC (25% ethyl acetate/hexanes on silica gel) showed a major product at Rf 0.54 with a trace contaminant at Rf 0.71 (starting material Rf 0.36).

reactant | Aluminum isopropoxide | 1.9 mmol, 0.39 g | CC([O-])C.[Al+3].CC([O-])C.CC([O-])C
reactant | 21-methylene-20(R)-methylpregn-5-en-3β-ol | 0.6337 mmol, 208.2 mg | C=C[C@H]([C@H]1CC[C@H]2[C@@H]3CC=C4C[C@H](CC[C@]4(C)[C@H]3CC[C@]12C)O)C | C23H36O
reactant | cyclohexanone | 35 mmol, 3.6 ml | C1(CCCCC1)=O | C6H10O
reactant | sulfuric acid | 3.6 N, 2.2 ml | S(O)(O)(=O)=O | H2O4S
solvent | toluene | 3.6 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 18 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 4.6 ml | O | H2O
solvent | water | 0.92 ml | O | H2O
product | 21-Methylene-20(R)-methylpregn-4-en-3-one | 0.4677 mmol, 152.7 mg, 74% | C=C[C@H]([C@H]1CC[C@H]2[C@@H]3CCC4=CC(CC[C@]4(C)[C@H]3CC[C@]12C)=O)C | C23H34O
